US07368578B2
A mixture of 3-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid (1.09 g), 1-hydroxybenzotriazole ammonia complex (0.37 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.46 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give diethyl (E)-2-(3-{[4-({2-[3-(carbamoyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)-3-methoxybenzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)ethenylphosphonate as colorless crystals (0.82 g, yield 76%). Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 127-128° C.

reactant | 3-[4-({4-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid | 1.09 g | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C(=O)O)C=CC2)C=C1)OC | C35H36N3O9P
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.46 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | diethyl (E)-2-(3-{[4-({2-[3-(carbamoyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)-3-methoxybenzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)ethenylphosphonate | 0.82 g, yield 76% | C(N)(=O)C=1C=C(C=CC1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C=C1)OC)C | C35H37N4O8P
